US05661160
Synthesis of 1-[2-[3-(3-trifluoromethyl-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide
Prepare by the method of example 3.3 using 2-[3-(3-trifluoromethyl-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate (8 mmol) and 4-phenyl-piperidine-4-carboxylic acid amide hydrochloride (12 mmol). Chromatograph on silica gel to give the title compound.

reactant | 2-[3-(3-trifluoromethyl-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate | 8 mmol | FC(C=1C=C(C=CC1)C1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CCCS(=O)(=O)[O-])(F)F
reactant | 4-phenyl-piperidine-4-carboxylic acid amide hydrochloride | 12 mmol | Cl.C1(=CC=CC=C1)C1(CCNCC1)C(=O)N
product | 1-[2-[3-(3-trifluoromethyl-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide | FC(C=1C=C(C=CC1)C1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CCN1CCC(CC1)(C(=O)N)C1=CC=CC=C1)(F)F | C35H40F3N3O5
